US07632857B2
3-Fluoro-4′-(methanesulfonyl-methyl-amino)-biphenyl-4-carboxylic acid
Procedure UU: To a stirring solution of 3-Fluoro-4′-(methanesulfonyl-methyl-amino)-biphenyl-4-carboxylic acid methyl ester (see Intermediate Preparation 33) (11.0 mmol) in 1:1 methanol/tetrahydrofuran, add 2N sodium hydroxide (3.0 mmol) and stir at room temperature for 4 hours. After this time wash the reaction with 1N hydrochloric acid while extracting with dichloromethane. Dry the organics with sodium sulfate, decant, and concentrate in vacuo. MS (m/e): 322.1 (M−1)

reactant | 3-Fluoro-4′-(methanesulfonyl-methyl-amino)-biphenyl-4-carboxylic acid methyl ester | 11.0 mmol | COC(=O)C1=C(C=C(C=C1)C1=CC=C(C=C1)N(C)S(=O)(=O)C)F | C16H16FNO4S
reactant | sodium hydroxide | 3.0 mmol, 2N | [OH-].[Na+]
solvent | methanol tetrahydrofuran | CO.O1CCCC1
product | 3-Fluoro-4′-(methanesulfonyl-methyl-amino)-biphenyl-4-carboxylic acid | FC=1C=C(C=CC1C(=O)O)C1=CC=C(C=C1)N(C)S(=O)(=O)C | C15H14FNO4S
